US08791267B2
Synthesis of 5-Bromo-2-methoxy-3′-nitro-biphenyl (I-207).
A suspension of 5-bromo-2-methoxyphenylboronic acid (500 mg, 2.17 mmol), 3-iodonitrobenzene (647 mg, 2.60 mmol), and potassium carbonate (599 mg, 4.33 mmol) in methanol (10 mL) and water (2 mL) was degassed for 30 min under a nitrogen stream followed by the addition of palladium(II) acetate (9.72 mg, 0.0433 mmol). The reaction was stirred at room temperature for 4 h. The methanol was removed under reduced pressure, ethyl acetate (50 mL) and water (50 mL) were added, and the biphasic suspension was filtered. The layers were separated and the organic was washed with water (50 mL). The aqueous washes were combined and extracted with ethyl acetate (2×50 mL), and the organic extracts combined. The organic solution was washed with water (3×50 mL), saturated aqueous sodium bicarbonate (50 mL), brine, dried over sodium sulfate, filtered, and the solvent removed under vacuum to give a crude brown gum. The product was purified by flash silica gel column chromatography (5% ethyl acetate in hexanes), and crystallized by dissolving in diethyl ether (20 mL) and hexanes (50 mL), removing one half of the solvent under vacuum, filtering and washing with hexanes (2×10 mL) to give I-207 (417.8 mg, 63% yield). 1H NMR (400 MHz, CDCl3) 8.38 (t, J=1.8 Hz, 1H), 8.21-8.19 (m, 1H), 7.81 (dt, J=7.5 Hz, 1.3 Hz, 1H), 7.58 (t, J=8.0 Hz, 1H), 7.50-7.45 (m, 2H), 6.90 (d, J=8.8 Hz, 1H), 3.82 (s, 3H) ppm.

reactant | 5-bromo-2-methoxyphenylboronic acid | 2.17 mmol, 500 mg | BrC=1C=CC(=C(C1)B(O)O)OC | C7H8BBrO3
reactant | 3-iodonitrobenzene | 2.60 mmol, 647 mg | IC=1C=C(C=CC1)[N+](=O)[O-] | C6H4INO2
reactant | potassium carbonate | 4.33 mmol, 599 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
catalyst | palladium(II) acetate | 0.0433 mmol, 9.72 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Bromo-2-methoxy-3′-nitro-biphenyl | 63% yield | BrC=1C=CC(=C(C1)C1=CC(=CC=C1)[N+](=O)[O-])OC | C13H10BrNO3
